US07465815B2
2-(2-Hydroxy-1-(4-isopropylphenyl)ethyl)-3,6-dimethylphenol
Using 3-(4-isopropylphenyl)-4,7-dimethyl-1-benzofuran-2 (3H)-one synthesized in Reference Example 230, the title compound was synthesized in the same manner as in Reference Example 8. Yield 88%. Melting point: 88-89° C. (hexane-ethyl acetate).

reactant | 3-(4-isopropylphenyl)-4,7-dimethyl-1-benzofuran-2 (3H)-one | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=CC=C2C)C)=O | C19H20O2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(2-Hydroxy-1-(4-isopropylphenyl)ethyl)-3,6-dimethylphenol | Yield 88% | OCC(C1=CC=C(C=C1)C(C)C)C1=C(C(=CC=C1C)C)O | C19H24O2
